US07470680B2
tert-butyl 4-(4-(ethoxycarbonyl)-2-oxo-2,3-dihydroimidazol-1-yl)piperidine-1-carboxylate.
4-Amino-1-Boc-piperidine (1.60 g, 7.99 mmol) was dissolved in a mixture of dichloromethane (30 mL) and aqueous sodium bicarbonate (15 mL). 20% Phosgene in toluene (4.8 mL, 9.12 mmol) was added to the mixture in one portion with vigorous stirring. Reaction stirred vigorously at room temperature for 15 minutes. A solution of ethyl 2-amino-3,3-diethoxypropanoate (1.95 g, 9.50 mmol) in 20 mL dichloromethane was added to the mixture. Reaction stirred vigorously at room temperature for 30 minutes. Reaction layers were partitioned and the aqueous phase was back extracted with dichloromethane. Organic layers were combined. Material was washed twice with 1N hydrochloric acid and the aqueous phase was discarded. Material was washed with brine and the aqueous phase was discarded. Organics were dried MgSO4, filtered and then concentrated to dryness. 2.70 g (6.26 mmol) of the residue was suspended in water (25 ml). Concentrated hydrochloric acid (25 ml, 304 mmol) was added to the mixture. Reaction was warmed to 80° C. and held with stirring for 5 minutes. Mixture was cooled to room temperature. Reaction mixture was carefully poured into a stirred solution of sodium carbonate (16.19 g, 153 mmol) in 50 mL water. 1,4-Dioxane (50 ml) was added to the mixture followed by di-tert-butyl dicarbonate (1.60 g, 7.33 mmol). Reaction stirred at room temperature for 2 hours. Mixture was extracted twice with ethyl acetate and the aqueous phase was discarded. Organics were dried MgSO4, filtered and then concentrated to dryness. Silica gel chromatography eluting ethyl acetate-hexanes afforded the title compound as tan foam in 19% yield. MS (M−H)−=338.2.

reactant | 4-Amino-1-Boc-piperidine | 7.99 mmol, 1.60 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | Phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 9.12 mmol, 4.8 mL | C1(=CC=CC=C1)C | C7H8
reactant | ethyl 2-amino-3,3-diethoxypropanoate | 9.50 mmol, 1.95 g | NC(C(=O)OCC)C(OCC)OCC | C9H19NO4
reactant | hydrochloric acid | 304 mmol, 25 ml | Cl | ClH
reactant | sodium carbonate | 153 mmol, 16.19 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | di-tert-butyl dicarbonate | 7.33 mmol, 1.60 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | sodium bicarbonate | 15 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | water | 25 ml | O | H2O
solvent | water | 50 mL | O | H2O
solvent | 1,4-Dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | tert-butyl 4-(4-(ethoxycarbonyl)-2-oxo-2,3-dihydroimidazol-1-yl)piperidine-1-carboxylate | 19% yield | C(C)OC(=O)C=1NC(N(C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C16H25N3O5
